US08039503B2
E44.3. Synthesis of 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-thiopyran]-5,6-dione (Compound 263)
The crude 4-(mercaptomethyl)tetrahydro-2H-thiopyran-4-ol was then reacted with naphthalene-1,2-dione as outlined in procedure F [both step (i) and (ii)] to afford crude 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-thiopyran]-5,6-dione. The crude 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-thiopyran]-5,6-dione was purified by flash column chromatography (SiO2, 25% EtOAc in hexanes) to afford the product as a purple solid. M.p.=221-223° C., 400 MHz 1H NMR (CDCl3) δ 8.05 (dd, d, J=7.4 Hz, 1.1 Hz, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.67 (dt, J=6.2 Hz, 1.1 Hz, 1H), 7.50 (dt, J=6.2 Hz, 1.1 Hz, 1H), 3.10-3.03 (m, 1H), 2.64-2.60 (m2, 2H), 2.47-2.43 (m, 2H), 1.99-1.92 (m, 2H); LCMS: 319 [M+H].

reactant | 4-(mercaptomethyl)tetrahydro-2H-thiopyran-4-ol | SCC1(CCSCC1)O | C6H12OS2
reactant | naphthalene-1,2-dione | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-thiopyran]-5,6-dione | S1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C16H14O3S2
